US05039701
5-acetyl-2,3-dihydro-6-hydroxy-4,7-dimethoxybenzofuran
10 g of 5-acetyl-6-hydroxy-4,7-dimethoxybenzofuran in 100 ml of methanol are hydrogenated using 2 g of Pd/C (10%) at room temperature and under slightly superatmospheric pressure. When the absorption of hydrogen is complete, the mixture is filtered and the solvent is distilled off. 9.7 g of the desired product of melting point 100°-101° C. are obtained.

reactant | 5-acetyl-6-hydroxy-4,7-dimethoxybenzofuran | 10 g | C(C)(=O)C=1C(=C(C2=C(C=CO2)C1OC)OC)O | C12H12O5
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd/C | 2 g | [Pd] | Pd
product | 5-acetyl-2,3-dihydro-6-hydroxy-4,7-dimethoxybenzofuran | 9.7 g | C(C)(=O)C=1C(=C(C2=C(CCO2)C1OC)OC)O | C12H14O5
